### PR TITLE
feat: a pre-Brownian motion is a martingale with respect to its natural filtration

### PR DESCRIPTION
**Pull request by jvanwinden**
- Add typeclass to encode the definition of a filtered pre-Brownian motion.
- Prove that a pre-Brownian motion is filtered with respect to its natural filtration.
- Prove that a filtered pre-Brownian motion is a martingale.
- Add lemma which states that the integral of a pre-Brownian motion evaluated at time t is zero.

### CODE REVIEW

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 1]
```diff
@@ -482,6 +486,51 @@ lemma IsPreBrownian.inv [h : IsPreBrownian X P] :
...
+  have hM := fun t ↦ ((hX.adap t).mono (𝓕.le t)).measurable
+  intro s t hst
+  have h_no_cond : P[X t - X s | 𝓕 s] =ᵐ[P] fun _ ↦ P[X t - X s] := by
+    refine condExp_indep_eq ?_ (𝓕.le s) ?_ (hX.indep s t hst)
+    · exact Measurable.comap_le (Measurable.sub (hM t) (hM s))
+    · exact (comap_measurable (X t - X s)).stronglyMeasurable
+  have h_integral_zero : P[X t - X s] = 0 := calc
+    P[X t - X s] = P[X t] - P[X s] := integral_sub (hX.integrable_eval t) (hX.integrable_eval s)
+    _ = ↑0 := by rw [hX.integral_eval t, hX.integral_eval s]; simp
+  exact calc
```
Comment (CoolRmal) [inline BrownianMotion/Gaussian/BrownianMotion.lean]:
```suggestion
  calc
```

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 2]
```diff
@@ -482,6 +486,51 @@ lemma IsPreBrownian.inv [h : IsPreBrownian X P] :
...
+  extends IsPreBrownian X P where
+    adap : Adapted 𝓕 X
+    indep : ∀ s t : ℝ≥0, s ≤ t → Indep (MeasurableSpace.comap (X t - X s) inferInstance) (𝓕 s) P
+
+instance IsPreBrownian.isFilteredPreBrownian [h : IsPreBrownian X P]
+    (hX : ∀ t : ℝ≥0, Measurable (X t)) :
+    IsFilteredPreBrownian X (natural X (fun t ↦ (hX t).stronglyMeasurable)) P where
+  adap  := adapted_natural (fun t ↦ (hX t).stronglyMeasurable)
+  indep := by
+    intro s t hst
```
Comment (CoolRmal) [inline BrownianMotion/Gaussian/BrownianMotion.lean]:
```suggestion
  indep s t hst := by
```

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 3]
```diff
@@ -482,6 +486,51 @@ lemma IsPreBrownian.inv [h : IsPreBrownian X P] :
...
+    have h := (IndepFun_iff_Indep _ _ _).1 (h.indepFun_shift hX s)
+    refine indep_of_indep_of_le_right (indep_of_indep_of_le_left h ?_) ?_
+    · have hX : X t - X s = (fun f ↦ f (t - s)) ∘ (fun ω u ↦ (X (s + u) ω - X s ω)) := by
+        funext; simp [add_tsub_cancel_of_le, hst]
+      rw [hX, ←comap_comp]; apply comap_mono (Measurable.comap_le _); fun_prop
+    · apply iSup_le; intro u; apply iSup_le; intro hu
```
Comment (CoolRmal) [inline BrownianMotion/Gaussian/BrownianMotion.lean]:
```suggestion
    · refine iSup_le fun u => iSup_le fun hu => ?_
```

**Review by CoolRmal — COMMENTED** [review]
Most of my comments are about the style.

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 4]
```diff
@@ -482,6 +486,51 @@ lemma IsPreBrownian.inv [h : IsPreBrownian X P] :
...
+      have hX : (X u) = ((fun f ↦ f ⟨u,hu⟩) ∘ (fun ω (t : Set.Iic s) ↦ X t ω)) := by
+        funext; simp
+      rw [hX, ←comap_comp]; apply comap_mono (Measurable.comap_le _); fun_prop
+
+lemma IsPreBrownian.isMartingale (X : ℝ≥0 → Ω → ℝ) (𝓕 : Filtration ℝ≥0 mΩ) (P : Measure Ω)
+  [IsProbabilityMeasure P] [hX : IsFilteredPreBrownian X 𝓕 P] : Martingale X 𝓕 P := by
+  refine ⟨hX.adap, ?_⟩
+  have hM := fun t ↦ ((hX.adap t).mono (𝓕.le t)).measurable
+  intro s t hst
```
[the remark this answers is not in the document]
Comment (jvanwinden) [reply BrownianMotion/Gaussian/BrownianMotion.lean]: I guess the double space after `fun` on line 513 was a typo?

```suggestion
  refine ⟨hX.adap, fun s t hst => ?_⟩
  have hM := fun t ↦ ((hX.adap t).mono (𝓕.le t)).measurable
```
